US07056937B2
Step D: Synthesis of 2-[2-(2-methyl-pyridin-4-yl)ethyl]isoindole-1,3-dione
A solution of triphenylphosphine (3.18 g, 12.12 mmol) and diisopropylazodicarbocylate (2.39 μL, 12.12 mmol) in 10 mL of THF was stirred at 0° C. for 30 min and combined with a solution of 2-(2-methyl-pyridin-4-yl)-ethanol and phthalimide (1.33 g, 9.7 mmol) in 10 mL of THF. The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate and the organic layer was washed successively with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride solutions. The organic layer was dried over sodium sulfate and concentrated in vacuo. Flash chromatography on silica using a dichloromethane/methanol gradient (2–10%) gave 2.5 g of the title product.

reactant | triphenylphosphine | 12.12 mmol, 3.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-methyl-pyridin-4-yl)-ethanol | CC1=NC=CC(=C1)CCO | C8H11NO
reactant | phthalimide | 9.7 mmol, 1.33 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[2-(2-methyl-pyridin-4-yl)ethyl]isoindole-1,3-dione | 2.5 g | CC1=NC=CC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C16H14N2O2
